US04499269
(a) 2-Amino-8-methoxy-4-phenylimino-4H-1,3,5-triazino[2,1-b]benzothiazole
A solution of 2-amino-6-methoxy benzothiazole (9.0 g) in dry tetrahydrofuran was treated with the sodium salt of N-cyano-N'-phenyl thiourea (5.0 g) and finely powdered mercuric chloride (6.75 g) and the mixture stirred at room temperature for 24 hours.

reactant | 2-amino-6-methoxy benzothiazole | 9.0 g | NC=1SC2=C(N1)C=CC(=C2)OC | C8H8N2OS
reactant | sodium | [Na] | Na
reactant | N-cyano-N'-phenyl thiourea | 5.0 g | C(#N)NC(=S)NC1=CC=CC=C1 | C8H7N3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Amino-8-methoxy-4-phenylimino-4H-1,3,5-triazino[2,1-b]benzothiazole | NC=1N=C2SC3=C(N2C(N1)=NC1=CC=CC=C1)C=CC(=C3)OC | C16H13N5OS
